US07098226B2
N,N-Dimethylformamide (28 ml) was added to 3-aminopropionitrile (0.98 g, 14 mmol), and the mixture was stirred at room temperature. 6-Bromo-1-hexene (5.0 g, 31 mmol), sodium iodide (11 g, 73 mmol) and potassium carbonate (5.8 g, 42 mmol) were added to the mixture, and the whole was stirred overnight. The reaction mixture was diluted with diethyl ether (100 ml), and the whole was washed with water (100 ml, twice) and saturated brine (50 ml) successively. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2.2 g (66%) of 3-(di-5-hexenyl)aminopropionitrile as a colorless oily matter.

reactant | 3-aminopropionitrile | 14 mmol, 0.98 g | NCCC#N | C3H6N2
reactant | 6-Bromo-1-hexene | 31 mmol, 5.0 g | BrCCCCC=C | C6H11Br
reactant | sodium iodide | 73 mmol, 11 g | [I-].[Na+]
reactant | potassium carbonate | 42 mmol, 5.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | N,N-Dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
product | 3-(di-5-hexenyl)aminopropionitrile | 2.2 g, 66% | C(CCCC=C)N(CCC#N)CCCCC=C | C15H26N2
